US06245790B1
A mixture of 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}phenyl trifluoromethanesulfonate (400 mg), 3-methoxycarbonylphenylboronic acid (177 mg), triethylamine (0.318 ml), and tetrakis(triphenylphosphine)palladium(0) (64 mg) in DMF (8 ml) was stirred at 100° C. for 3.5 hours. After cooling to room temperature, the reaction mixture was diluted with EtOAc, washed with water, 1N HCl, water, saturated sodium hydrogen carbonate, water, and brine, dried over magnesium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 10:1) to give methyl 3′-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]-methyl}biphenyl-3-carboxylate (264.6 mg) as an oil.

reactant | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}phenyl trifluoromethanesulfonate | 400 mg | FC(S(=O)(=O)OC1=CC(=CC=C1)CC1C(=CCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C28H22F3NO4S
reactant | 3-methoxycarbonylphenylboronic acid | 177 mg | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | triethylamine | 0.318 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 64 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3′-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]-methyl}biphenyl-3-carboxylate | 264.6 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C35H29NO3
